### PR TITLE
[Merged by Bors] - feat(Analytic): `℘'(z)² = 4 ℘(z)³ - g₂ ℘(z) - g₃`

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
I think I do care about the coefficients of the series are. Or are you suggesting I deal with `iteratedDeriv` directly?
I would have to deal with annoying divisions by `n!` and juggle with `Nat.choose` though, but perhaps you claim that this is still less painful that what I am doing? If so I'll give it a try. 

Or perhaps we should define `taylorcoeff n f z₀ := iteratedDeriv n f z₀ / n!` and develop some basic API on it? At least it behaves better under multiplication

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 1]
```diff
@@ -397,6 +402,9 @@ lemma eqOn_deriv_weierstrassPExcept_derivWeierstrassPExcept (l₀ : ℂ) :
         simpa using hl)
       exact .sub (.div (by fun_prop) (by fun_prop) (by simpa)) (by fun_prop)
 
+@[simp] lemma deriv_weierstrassPExpect (l : ℂ) : deriv ℘[L - l] l = ℘'[L - l] l :=
```
Comment (vihdzp) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
@[simp] lemma deriv_weierstrassPExcept (l : ℂ) : deriv ℘[L - l] l = ℘'[L - l] l :=
```

Comment (erdOne) [reply Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: I read your suggestion thrice before noticing the difference :D
Thanks!

**Comment by erdOne** [comment]
I fixed the max heartbeat. I am not unhappy with the proof now.

File: Mathlib/Algebra/Order/Floor/Ring.lean [hunk 2]
```diff
@@ -597,6 +597,10 @@ theorem ceil_le_floor_add_one (a : R) : ⌈a⌉ ≤ ⌊a⌋ + 1 := by
   rw [ceil_le, Int.cast_add, Int.cast_one]
   exact (lt_floor_add_one a).le
 
+lemma le_floor_add_one [ZeroLEOneClass R] [AddLeftMono R] (a : R) : a ≤ ⌊a⌋ + 1 := by
```
Comment (loefflerd) [inline Mathlib/Algebra/Order/Floor/Ring.lean]: Isn't this a weakened form of the existing `Int.lt_floor_add_one`?

File: Mathlib/Analysis/Analytic/Order.lean [hunk 3]
```diff
@@ -182,6 +182,9 @@ lemma analyticOrderAt_congr (hfg : f =ᶠ[𝓝 z₀] g) :
   · rw [analyticOrderAt_of_not_analyticAt hf,
       analyticOrderAt_of_not_analyticAt fun hg ↦ hf <| hg.congr hfg.symm]
 
+@[simp] lemma analytiOrderAt_id : analyticOrderAt (𝕜 := 𝕜) id 0 = 1 :=
```
Comment (loefflerd) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
@[simp] lemma analyticOrderAt_id : analyticOrderAt (𝕜 := 𝕜) id 0 = 1 :=
```

File: Mathlib/Analysis/Analytic/Order.lean [hunk 4]
```diff
@@ -319,6 +322,19 @@ theorem AnalyticAt.analyticOrderAt_sub_eq_one_of_deriv_ne_zero {x : 𝕜} (hf :
         deriv_fun_pow (by fun_prop), sub_self, zero_pow (by omega), zero_pow (by omega),
         mul_zero, zero_mul, zero_smul, zero_smul, add_zero]
 
+lemma natCast_le_analyticOrderAt_iff_iteratedDeriv_eq_zero [CharZero 𝕜] [CompleteSpace E]
+    (hf : AnalyticAt 𝕜 f z₀) :
+    n ≤ analyticOrderAt f z₀ ↔ ∀ i < n, iteratedDeriv i f z₀ = 0 := by
```
Comment (loefflerd) [inline Mathlib/Analysis/Analytic/Order.lean:327]: I like this, I think it's exactly the right approach (and I regret not providing this lemma myself before)

File: Mathlib/Analysis/Calculus/ContDiff/Operations.lean [hunk 5]
```diff
@@ -510,9 +510,17 @@ theorem contDiff_smul : ContDiff 𝕜 n fun p : 𝕜 × F => p.1 • p.2 :=
...
+    (hg : ContDiffWithinAt 𝕜 n g s x) : ContDiffWithinAt 𝕜 n (f • g) s x :=
   contDiff_smul.contDiffWithinAt.comp x (hf.prodMk hg) subset_preimage_univ
 
+/-- The scalar multiplication of two `C^n` functions within a set at a point is `C^n` within this
+set at this point. -/
+@[fun_prop]
+theorem ContDiffWithinAt.fun_smul {s : Set E} {f : E → 𝕜} {g : E → F}
+    (hf : ContDiffWithinAt 𝕜 n f s x) (hg : ContDiffWithinAt 𝕜 n g s x) :
+    ContDiffWithinAt 𝕜 n (fun x ↦ f x • g x) s x :=
+  ContDiffWithinAt.smul hf hg
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/ContDiff/Operations.lean]: Can this be auto-generated from the non-compositional version by using the `to_fun` decorator? (Edit: Yes, it can)

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 6]
```diff
@@ -1470,6 +1470,14 @@ theorem ContDiffOn.continuousOn_deriv_of_isOpen (h : ContDiffOn 𝕜 n f₂ s₂
   rw [show (1 : WithTop ℕ∞) = 0 + 1 from rfl] at hn
   exact ((contDiffOn_succ_iff_deriv_of_isOpen hs).1 (h.of_le hn)).2.2.continuousOn
 
+@[fun_prop]
+protected lemma ContDiffWithinAt.derivWithin {x : 𝕜}
+    (H : ContDiffWithinAt 𝕜 n f₂ s₂ x) (hs : UniqueDiffOn 𝕜 s₂)
+    (hmn : m + 1 ≤ n) (hx : x ∈ s₂) :
+    ContDiffWithinAt 𝕜 m (derivWithin f₂ s₂) s₂ x := by
+  exact ContDiffWithinAt.comp _ (by fun_prop) (g := fun f ↦ f 1) (t := .univ)
+    (H.fderivWithin_right hs hmn hx) (fun _ _ ↦ trivial)
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:1479]: - Can this maybe be derived from the existing higher-dimensional analogue `ContDiffWithinAt.fderivWithin`?
- If we are going to add it, we should also add the non-`within` version, `ContDiffAt.deriv`, and possibly versions for `ContDiffOn` and `ContDiff`.
- While this is clearly a useful lemma in its own right, I'm surprised it's relevant in your particular context, since everything is analytic (and we have the implications "differentiable on an open set U" -> "analytic on U" -> "n-times cont diff on U for all n" and "analytic on U" -> "derivative analytic on U").

File: Mathlib/Algebra/Module/ZLattice/Basic.lean [hunk 7]
```diff
@@ -787,4 +787,20 @@ theorem Module.Basis.ofZLatticeBasis_comap (e : F ≃L[K] E) {ι : Type*} (b : B
...
+    (hf' : ∀ z w, w ∈ L → f (z + w) = f z) : IsCompact (Set.range f) := by
+  have := ZLattice.module_free ℝ L
+  let b := Module.Free.chooseBasis ℤ L
+  convert (b.ofZLatticeBasis ℝ).parallelepiped.isCompact.image hf
+  refine le_antisymm ?_ (Set.image_subset_range _ _)
+  rintro _ ⟨x, rfl⟩
+  let x' : L := b.repr.symm (Finsupp.equivFunOnFinite.symm
+    fun i ↦ ⌊(b.ofZLatticeBasis ℝ).repr x i⌋)
+  refine ⟨x + (- x'), ?_, hf' _ _ (- x').2⟩
+  simp [parallelepiped_basis_eq, x', Int.floor_le, Int.le_floor_add_one, add_comm (1 : ℝ)]
```
Comment (loefflerd) [inline Mathlib/Algebra/Module/ZLattice/Basic.lean]:
```suggestion
  simp [parallelepiped_basis_eq, x', Int.floor_le, Int.lt_floor_add_one, le_of_lt, add_comm (1 : ℝ)]
```
(and then you don't need to add `Int.le_floor_add_one` any more)

File: Mathlib/Analysis/Calculus/ContDiff/Operations.lean [hunk 8]
```diff
@@ -510,9 +510,17 @@ theorem contDiff_smul : ContDiff 𝕜 n fun p : 𝕜 × F => p.1 • p.2 :=
 set at this point. -/
 @[fun_prop]
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/ContDiff/Operations.lean]:
```suggestion
@[to_fun (attr := fun_prop)]
```

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 9]
```diff
@@ -29,14 +29,21 @@ variable
 
 section
 
+open scoped Topology
+
+theorem Filter.EventuallyEq.iteratedDerivWithin_eq (hfg : f =ᶠ[𝓝[s] x] g) (hfg' : f x = g x) :
+    iteratedDerivWithin n f s x = iteratedDerivWithin n g s x :=
+  congr($(hfg.iteratedFDerivWithin_eq (𝕜 := 𝕜) hfg' n) _)
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]:
```suggestion
  congr($(hfg.iteratedFDerivWithin_eq hfg' n) _)
```
seems to work

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 10]
```diff
@@ -29,14 +29,21 @@ variable
...
+
+theorem Filter.EventuallyEq.iteratedDerivWithin_eq' {𝕜 F : Type*} [NontriviallyNormedField 𝕜]
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: Can we have either a docstring or a more intuitive name? I'm also wondering whether this is really needed, since there's no analogue of it in the library for the usual `deriv` or `fderiv`.

(At one point there was a linter requiring all declarations with names ending in a prime should have a docstring. That seems to be no longer active, but I think it's still a good policy to try to follow.)

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 11]
```diff
@@ -139,6 +146,11 @@ lemma iteratedDeriv_add (hf : ContDiffAt 𝕜 n f x) (hg : ContDiffAt 𝕜 n g x
   simpa only [iteratedDerivWithin_univ] using
     iteratedDerivWithin_add (Set.mem_univ _) uniqueDiffOn_univ hf hg
 
+-- `@[to_fun]` generates the wrong name
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: Let's label this consistently with other similar labels in the library, for ease of finding in future:
```suggestion
-- TODO: `@[to_fun]` gives incorrect lemma name
```
and likewise below

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 12]
```diff
@@ -194,6 +211,75 @@ lemma iteratedDeriv_comp_neg (n : ℕ) (f : 𝕜 → F) (a : 𝕜) :
       deriv_comp_neg (f := fun x ↦ (-1 : 𝕜) ^ n • iteratedDeriv n f x), deriv_fun_const_smul',
       neg_smul]
 
+lemma iteratedDeriv_id {n : ℕ} {x : 𝕜} :
+    iteratedDeriv n id x = if n = 0 then x else if n = 1 then 1 else 0 := by
+  obtain (_ | _ | n) := n
+  · simp []
+  · simp
+  · simp [iteratedDeriv_succ', iteratedDeriv_const]
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]:
```suggestion
  obtain (_ | _ | n) := n <;>
  simp [iteratedDeriv_succ', iteratedDeriv_const]
```
(fortunately `simp` is clever enough not to complain about unused simp lemmas when inside a `<;>` block)

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 13]
```diff
@@ -194,6 +211,75 @@ lemma iteratedDeriv_comp_neg (n : ℕ) (f : 𝕜 → F) (a : 𝕜) :
...
+
+lemma iteratedDeriv_fun_id {n : ℕ} {x : 𝕜} :
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean:281]:
```suggestion
-- TODO: `@[to_fun]` gives incorrect lemma name
lemma iteratedDeriv_fun_id {n : ℕ} {x : 𝕜} :
```

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 14]
```diff
@@ -194,6 +211,75 @@ lemma iteratedDeriv_comp_neg (n : ℕ) (f : 𝕜 → F) (a : 𝕜) :
...
+    iteratedDeriv n (fun a ↦ a) x = if n = 0 then x else if n = 1 then 1 else 0 :=
+  iteratedDeriv_id
+
+lemma iteratedDeriv_fun_id_zero :
+    iteratedDeriv n (fun a ↦ a) (0 : 𝕜) = if n = 1 then 1 else 0 := by
+  simp +contextual [iteratedDeriv_fun_id]
+
+lemma iteratedDerivWithin_smul {f : 𝕜 → 𝕜} {g : 𝕜 → F}
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: Perhaps move this and the next lemma further up the file to keep the `iteratedDerivWithin` lemmas together (separate from the `iteratedDeriv` lemmas)? Better still they should be in a named section (the file currently has some "anonymous" sections which is suboptimal).

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 15]
```diff
@@ -194,6 +211,75 @@ lemma iteratedDeriv_comp_neg (n : ℕ) (f : 𝕜 → F) (a : 𝕜) :
...
+    (hf : ContDiffWithinAt 𝕜 (↑n) f s x) (hg : ContDiffWithinAt 𝕜 (↑n) g s x)
+    (hs : UniqueDiffOn 𝕜 s) (hx : x ∈ s) :
+    iteratedDerivWithin n (f • g) s x = ∑ i ∈ .range (n + 1),
+      n.choose i • iteratedDerivWithin i f s x • iteratedDerivWithin (n - i) g s x := by
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: I'm really surprised that this isn't in the library already (so it's great that you have added it!)

It would be nice, however, if it worked in the same generality as `derivWithin_smul`, which allows `f` to be valued in some field extension `𝕜'` of `𝕜` under a suitable `IsScalarTower` hypothesis (e.g. functions from the reals into a complex vector space). This can be achieved by adding
```
variable {𝕜' : Type*} [NontriviallyNormedField 𝕜']
  [NormedAlgebra 𝕜 𝕜'] [NormedSpace 𝕜' F] [IsScalarTower 𝕜 𝕜' F]
```
at line 504 of `ContDiff/Operations.lean` and then replacing some `𝕜` with `𝕜'` in the ensuing section. Then the proof here Just Works (tm) under these more general assumptions. (Note that mathlib has no problem synthesizing all these typeclasses when `𝕜' = 𝕜`, so the new formulation recovers the existing one automatically.) 

Ideally one ought to generalize even further, and allow `𝕜'` to be a normed algebra that isn't necessarily a field (cf. [intervalIntegral.integral_deriv_mul_eq_sub_of_hasDeriv_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/IntervalIntegral/IntegrationByParts.html#intervalIntegral.integral_deriv_mul_eq_sub_of_hasDeriv_right)), but that would be a much more invasive change so let's not do that here.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 16]
```diff
@@ -194,6 +211,75 @@ lemma iteratedDeriv_comp_neg (n : ℕ) (f : 𝕜 → F) (a : 𝕜) :
...
+  induction n generalizing f g with
+  | zero => simp
+  | succ n IH =>
+    obtain ⟨U, hU, H⟩ := Filter.eventually_iff_exists_mem.mp
+      ((hf.eventually (by simp)).and (hg.eventually (by simp)))
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: :golf:
```suggestion
    obtain ⟨U, hU, H⟩ := ((hf.eventually (by simp)).and (hg.eventually (by simp))).exists_mem
```

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 17]
```diff
@@ -194,6 +211,75 @@ lemma iteratedDeriv_comp_neg (n : ℕ) (f : 𝕜 → F) (a : 𝕜) :
...
+    rw [iteratedDerivWithin_succ', Filter.EventuallyEq.iteratedDerivWithin_eq'
+        (g := f • derivWithin g s + derivWithin f s • g)]
+    · rw [Finset.sum_range_succ', iteratedDerivWithin_add hx hs, IH, Finset.sum_range_succ', IH]
+      · simp only [Nat.choose_succ_succ', add_smul, Finset.sum_add_distrib]
+        nth_rw 3 [Finset.sum_range_succ]
+        have : ∀ i ∈ Finset.range n, 1 ≤ n - i := by simp; lia
+        simp +contextual [← iteratedDerivWithin_succ', ← n.sub_sub, Nat.sub_add_cancel, this]
+        abel
+      all_goals fun_prop (discharger := simp_all)
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: This is quite slow because the context here includes a lot of complicated stuff, and `simp_all` simplifies everything it sees (it has no way to determine which parts of the context are relevant and which aren't). The following speeds it up substantially:
```suggestion
      all_goals clear IH H U hU; fun_prop (disch := simp_all)
```
It's still slower than the hand-rolled proof but I think it's tolerable.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 18]
```diff
@@ -194,6 +211,75 @@ lemma iteratedDeriv_comp_neg (n : ℕ) (f : 𝕜 → F) (a : 𝕜) :
...
+      rw [derivWithin_smul (hfy.differentiableWithinAt _) (hgy.differentiableWithinAt _)]
+      all_goals simp
+
+lemma iteratedDerivWithin_mul {f g : 𝕜 → 𝕜}
+    (hf : ContDiffWithinAt 𝕜 n f s x) (hg : ContDiffWithinAt 𝕜 n g s x)
+    (hs : UniqueDiffOn 𝕜 s) (hx : x ∈ s) :
+    iteratedDerivWithin n (f * g) s x = ∑ i ∈ .range (n + 1),
+      n.choose i * iteratedDerivWithin i f s x * iteratedDerivWithin (n - i) g s x := by
+  convert iteratedDerivWithin_smul hf hg hs hx using 1
+  simp [mul_assoc]
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]:
```suggestion
  simp [← smul_eq_mul, iteratedDerivWithin_smul hf hg hs hx]
```

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 19]
```diff
@@ -194,6 +211,75 @@ lemma iteratedDeriv_comp_neg (n : ℕ) (f : 𝕜 → F) (a : 𝕜) :
...
+        nth_rw 3 [Finset.sum_range_succ]
+        have : ∀ i ∈ Finset.range n, 1 ≤ n - i := by simp; lia
+        simp +contextual [← iteratedDerivWithin_succ', ← n.sub_sub, Nat.sub_add_cancel, this]
+        abel
+      all_goals fun_prop (discharger := simp_all)
+    · filter_upwards [hf.eventually (by simp), hg.eventually (by simp)] with y hfy hgy
+      rw [derivWithin_smul (hfy.differentiableWithinAt _) (hgy.differentiableWithinAt _)]
+      all_goals simp
+
+lemma iteratedDerivWithin_mul {f g : 𝕜 → 𝕜}
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: Again we should allow values in an extension `𝕜'` here (& in similar lemmas below).

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 20]
```diff
@@ -194,6 +211,75 @@ lemma iteratedDeriv_comp_neg (n : ℕ) (f : 𝕜 → F) (a : 𝕜) :
...
+      n.choose i * iteratedDerivWithin i f s x * iteratedDerivWithin (n - i) g s x := by
+  convert iteratedDerivWithin_smul hf hg hs hx using 1
+  simp [mul_assoc]
+
+lemma iteratedDeriv_mul {f g : 𝕜 → 𝕜} (hf : ContDiffAt 𝕜 n f x) (hg : ContDiffAt 𝕜 n g x) :
+    iteratedDeriv n (f * g) x = ∑ i ∈ .range (n + 1),
+      n.choose i * iteratedDeriv i f x * iteratedDeriv (n - i) g x := by
+  rw [← iteratedDerivWithin_univ,
+    iteratedDerivWithin_mul hf.contDiffWithinAt hg.contDiffWithinAt uniqueDiffOn_univ trivial]
+  simp [iteratedDerivWithin_univ]
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: :golf:
```suggestion
  simpa [iteratedDerivWithin_univ] using
    iteratedDerivWithin_mul hf.contDiffWithinAt hg.contDiffWithinAt uniqueDiffOn_univ trivial
```
Maybe `iteratedDerivWithin_univ` should be `@[simp]`, matching `derivWithin_univ`, and then you get even more golf points.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 21]
```diff
@@ -194,6 +211,75 @@ lemma iteratedDeriv_comp_neg (n : ℕ) (f : 𝕜 → F) (a : 𝕜) :
...
+
+lemma iteratedDeriv_fun_mul {f g : 𝕜 → 𝕜} (hf : ContDiffAt 𝕜 n f x) (hg : ContDiffAt 𝕜 n g x) :
+    iteratedDeriv n (fun x ↦ f x * g x) x = ∑ i ∈ .range (n + 1),
+      n.choose i * iteratedDeriv i f x * iteratedDeriv (n - i) g x :=
+  iteratedDeriv_mul hf hg
+
+lemma iteratedDeriv_fun_pow_zero {n m : ℕ} :
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean:305]: Probably it makes sense to more generally give the formula for `iteratedDeriv n (· ^ m) x` for general `x : 𝕜` and then specialize to this. (Cf. [iteratedDerivWithin_zpow](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Calculus/IteratedDeriv/WithinZpow.html#iteratedDerivWithin_zpow))

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 22]
```diff
@@ -194,6 +211,75 @@ lemma iteratedDeriv_comp_neg (n : ℕ) (f : 𝕜 → F) (a : 𝕜) :
...
+  induction m generalizing n with
+  | zero => simp [iteratedDeriv_const]
+  | succ m IH =>
+    obtain rfl | hn := eq_or_ne n (m + 1)
+    · simp (discharger := fun_prop) [pow_succ', iteratedDeriv_fun_mul, iteratedDeriv_fun_id_zero,
+        IH (n := m), Nat.factorial_succ]
+    · simp (discharger := fun_prop) [pow_succ', iteratedDeriv_fun_mul, iteratedDeriv_fun_id_zero,
+        IH (n := n - 1), hn]; grind
+
 open Topology in
```
Comment (loefflerd) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: This shouldn't be needed – the `open scoped Topology` at the top of the file really wants to be outside the containing section.

**Review by loefflerd — COMMENTED** [review]
Here's a review of all the stuff _outside_ the main file `Weierstrass.lean`. I'll look at that later.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 23]
```diff
@@ -397,6 +402,9 @@ lemma eqOn_deriv_weierstrassPExcept_derivWeierstrassPExcept (l₀ : ℂ) :
         simpa using hl)
       exact .sub (.div (by fun_prop) (by fun_prop) (by simpa)) (by fun_prop)
 
+@[simp] lemma deriv_weierstrassPExcept (l : ℂ) : deriv ℘[L - l] l = ℘'[L - l] l :=
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: This is not an ideal name for this lemma; I assumed it would say that this relation holds globally, not just that it holds for `x = l`. (I guess `deriv ℘[L - l] x` and `℘'[L - l] x` are genuinely different when `x ∈ L.lattice \ {l₀}`?) Maybe `deriv_weierstrassPExcept_same` is better?

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 24]
```diff
@@ -734,9 +745,34 @@ lemma hasFPowerSeriesOnBall_weierstrassPExcept (l₀ x : ℂ) (r : NNReal) (hr0
     rw [weierstrassPExceptSeries, FormalMultilinearSeries.ofScalars_apply_eq,
       FormalMultilinearSeries.coeff_ofScalars, smul_eq_mul]
 
+lemma hasFPowerSeriesAt_weierstrassPExcept (l : ℂ) :
+    HasFPowerSeriesAt ℘[L - l] (.ofScalars (𝕜 := ℂ) ℂ fun i : ℕ ↦
+      i.rec (℘[L - l] l) fun n _ ↦ (↑n + 2) * L.sumInvPow l (n + 3)) l := by
+  obtain ⟨r, h₁, h₂⟩ := Metric.nhds_basis_closedBall.mem_iff.mp
+    ((L.isOpen_compl_lattice_diff (s := {l})).mem_nhds (x := l) (by simp))
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: You seem to use several times that `(↑L.lattice \ {l})ᶜ` is a nhd of `l` – maybe worth having a one-shot lemma for this? It also looks like the `s` argument to `isOpen_compl_lattice_diff` ought to be explicit, not implicit.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 25]
```diff
@@ -734,9 +745,34 @@ lemma hasFPowerSeriesOnBall_weierstrassPExcept (l₀ x : ℂ) (r : NNReal) (hr0
...
 lemma analyticOnNhd_weierstrassPExcept (l₀ : ℂ) : AnalyticOnNhd ℂ ℘[L - l₀] (L.lattice \ {l₀})ᶜ :=
   (L.differentiableOn_weierstrassPExcept l₀).analyticOnNhd L.isOpen_compl_lattice_diff
 
+@[fun_prop]
+lemma analyticAt_weierstrassPExcept (l₀ : ℂ) : AnalyticAt ℂ ℘[L - l₀] l₀ :=
+  L.analyticOnNhd_weierstrassPExcept _ _ (by simp)
+
+lemma iteratedDeriv_weierstrassPExcept (l : ℂ) {n : ℕ} :
+    iteratedDeriv n ℘[L - l] l =
+      n.rec (℘[L - l] l) fun n _ ↦ (n + 2).factorial * L.sumInvPow l (n + 3) := by
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: I'm not such a fan of `Nat.rec`; I feel it's clearer, although slightly more verbose, to write `if n = 0 then f n else g n`, unless you're in a situation where `g` is genuinely not defined for `n = 0` (which is not the case here). If you do `open scoped Nat` you can write `n !` rather than `n.factorial` throughout.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 26]
```diff
@@ -734,9 +745,34 @@ lemma hasFPowerSeriesOnBall_weierstrassPExcept (l₀ x : ℂ) (r : NNReal) (hr0
...
+  rw [← div_mul_cancel₀ (a := iteratedDeriv _ _ _) (b := ↑n.factorial)
+    (by simp [n.factorial_pos.ne']), ← eq_div_iff_mul_eq (by simp [n.factorial_pos.ne'])]
+  trans n.rec (℘[L - l] l) fun n _ ↦ (↑n + 2) * L.sumInvPow l (n + 3)
+  · simpa using congr($((L.analyticAt_weierstrassPExcept l).hasFPowerSeriesAt
+      |>.eq_formalMultilinearSeries (L.hasFPowerSeriesAt_weierstrassPExcept l)).coeff n)
+  · obtain (_ | n) := n
+    · simp
+    · simp [Nat.factorial_succ (n + 1)]; field [(n + 1).factorial_pos.ne']
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
    · simp [Nat.factorial_succ (n + 1)]
      field [(n + 1).factorial_pos.ne']
```
It's a pity that `field_simp` isn't able to spot automatically that factorials are non-zero, given how often one needs to divide by `n!`. Perhaps one could do the following:
- add an instance `NeZero n.factorial` for all `n : Nat` (a bundled version of `Nat.factorial_ne_zero`)
- add `NeZero.ne` to the list of lemmas used by `field_simp` in line 85-6 of `Mathlib.Tactic.FieldSimp.Discharger`.
But maybe that's better left for another PR, I'm not sure.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 27]
```diff
@@ -765,11 +801,39 @@ lemma hasFPowerSeriesOnBall_derivWeierstrassPExcept (l₀ x : ℂ) (r : NNReal)
     simp [weierstrassPExceptSeries, derivWeierstrassPExceptSeries, mul_assoc]
   · simpa using Metric.ball_subset_closedBall
 
+lemma hasFPowerSeriesAt_derivWeierstrassPExcept (l : ℂ) :
+    HasFPowerSeriesAt ℘'[L - l]
+      (.ofScalars ℂ fun i ↦ (i + 1) * (i + 2) * L.sumInvPow l (i + 3)) l := by
+  obtain ⟨r, h₁, h₂⟩ := Metric.nhds_basis_closedBall.mem_iff.mp
+    ((L.isOpen_compl_lattice_diff (s := {l})).mem_nhds (x := l) (by simp))
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: See remark above

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 28]
```diff
@@ -858,4 +928,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
 
 end Analytic
 
+section Relation
+
+/-- The eisenstein series as a function on lattices.
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
/-- The Eisenstein series as a function on lattices.
```
I think it would be nice to have some lemmas relating these declarations in the `PeriodPair` namespace to the declarations in the `ModularForms` namespace, e.g. [ModularForm.E](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/ModularForms/EisensteinSeries/Basic.html#ModularForm.E). Probably the way to do this is to define a map from `UpperHalfPlane` to `PeriodPair` sending `x` to the lattice `Z +  Z x`. Clearly this needn't be done right now, but perhaps a TODO is appropriate.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 29]
```diff
@@ -858,4 +928,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+
+/-- The lattice invariant `g₂ := 60 G₄`. -/
+def g₂ : ℂ := 60 * L.G 4
+
+/-- The lattice invariant `g₃ := 140 G₆`. -/
+def g₃ : ℂ := 140 * L.G 6
+
+/-- (Implementation detail) The relation that `℘'` and `℘` satisfies.
+We will show that this is constant zero. See `PeriodPair.relation_eq_zero` -/
+def relation (z : ℂ) : ℂ :=
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: Probably this def, and everything about it, should be flagged as `private`, since it is of no further interest once the argument is complete (we've established that it's a complicated way of defining 0).

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 30]
```diff
@@ -858,4 +928,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+  letI := Classical.propDecidable
+  if z ∈ L.lattice then 0 else ℘'[L] z ^ 2 - 4 * ℘[L] z ^ 3 + L.g₂ * ℘[L] z + L.g₃
+
+@[fun_prop]
+lemma meromorphic_relation : Meromorphic L.relation := by
+  have : Meromorphic fun z ↦ ℘'[L] z ^ 2 - 4 * ℘[L] z ^ 3 + L.g₂ * ℘[L] z + L.g₃ := by fun_prop
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean:958]: Happy to see that this works!

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 31]
```diff
@@ -858,4 +928,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+  intro z
+  refine .congr (this _) ?_
+  refine Filter.eventuallyEq_of_mem (s := L.latticeᶜ) ?_ fun z hz ↦ by simp_all [relation]
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: Let's just open `Filter` globally in this file. In the last clause `fun z hz` overwrites an existing variable `z` which is harmless but confusing, maybe call it `w` or something.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 32]
```diff
@@ -858,4 +928,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+We will show that this is constant zero. See `PeriodPair.relation_eq_zero` -/
+def relation (z : ℂ) : ℂ :=
+  letI := Classical.propDecidable
+  if z ∈ L.lattice then 0 else ℘'[L] z ^ 2 - 4 * ℘[L] z ^ 3 + L.g₂ * ℘[L] z + L.g₃
+
+@[fun_prop]
+lemma meromorphic_relation : Meromorphic L.relation := by
+  have : Meromorphic fun z ↦ ℘'[L] z ^ 2 - 4 * ℘[L] z ^ 3 + L.g₂ * ℘[L] z + L.g₃ := by fun_prop
+  intro z
+  refine .congr (this _) ?_
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
  refine fun z ↦ (this _).congr ?_
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 33]
```diff
@@ -858,4 +928,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+  refine Filter.eventuallyEq_of_mem (s := L.latticeᶜ) ?_ fun z hz ↦ by simp_all [relation]
+  refine Filter.mem_of_superset (Filter.inter_mem (mem_nhdsWithin_of_mem_nhds
+    ((L.isOpen_compl_lattice_diff (s := {z})).mem_nhds (x := z) (by simp))) self_mem_nhdsWithin) ?_
+  simp [Set.subset_def, not_imp_not]
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
  filter_upwards [self_mem_nhdsWithin, mem_nhdsWithin_of_mem_nhds
    <| (L.isOpen_compl_lattice_diff (s := {z})).mem_nhds (by simp)] with w hw hw'
  rw [relation, if_neg (by simp_all)]
```
IMHO, if you're ever wanting to use `Filter.inter_mem` (or `Eventually.and`, etc), it's a strong hint you should be using `filter_upwards` instead.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 34]
```diff
@@ -858,4 +928,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+
+attribute [local fun_prop] AnalyticAt.contDiffAt in
+lemma analyticAt_relation_zero_aux :
+    7 ≤ analyticOrderAt (fun z ↦ (℘'[L - (0 : ℂ)] z * z ^ 3 - 2) ^ 2 - 4 *
+    (℘[L - (0 : ℂ)] z * z ^ 2 + 1) ^ 3 + L.g₂ *
+    (℘[L - (0 : ℂ)] z * z ^ 6 + z ^ 4) + L.g₃ * z ^ 6) 0 := by
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: Oof, this is painful to read, and painful to compile as well. I can see you have tried very hard to make it as readable as possible, but I will have to think about whether there might be another approach.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 35]
```diff
@@ -858,4 +928,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+    rw [← sub_self x.1] at this
+    convert this.comp (f := (· - x.1)) (by fun_prop)
+    ext a
+    simp
+  · have : AnalyticAt ℂ (fun z ↦ ℘'[L] z ^ 2 - 4 * ℘[L] z ^ 3 + L.g₂ * ℘[L] z + L.g₃) x := by
+      refine .add (.add (.sub (.pow ?_ _) (.mul (by fun_prop) (.pow ?_ _)))
+        (.mul (by fun_prop) ?_)) (by fun_prop)
+      · exact L.analyticOnNhd_derivWeierstrassP _ (by simpa)
+      · exact L.analyticOnNhd_weierstrassP _ (by simpa)
+      · exact L.analyticOnNhd_weierstrassP _ (by simpa)
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
      have := L.analyticOnNhd_derivWeierstrassP _ hx
      have := L.analyticOnNhd_weierstrassP _ hx
      fun_prop (disch := assumption)
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 36]
```diff
@@ -858,4 +928,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+  exact (this.apply_eq_apply_of_bounded (IsZLattice.isCompact_range_of_periodic L.lattice _
+    this.continuous fun z w hw ↦ by lift w to L.lattice using hw; simp).isBounded x 0).trans
+    (if_pos (by simp))
+
+/-- `℘'(z)² = 4 ℘(z)³ - g₂ ℘(z) - g₃` -/
+lemma derivWeierstrassP_sq (z : ℂ) (hz : z ∉ L.lattice) :
+    ℘'[L] z ^ 2 = 4 * ℘[L] z ^ 3 - L.g₂ * ℘[L] z - L.g₃ := by
+  rw [← sub_eq_zero]
+  convert congr_fun L.relation_eq_zero z using 1
+  simp [relation, hz, sub_sub, sub_add]
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: :golf:
```suggestion
  simpa [sub_eq_zero, relation, hz, sub_add] using congr_fun L.relation_eq_zero z
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean (hunk 34 above)
Comment (loefflerd) [reply Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: In fact, aren't you doing slightly more work here than you need to? You are proving that `relation` has positive order at 0, while in fact all you need is that it has non-negative order. Or is there an issue with the junk value at the bad point?

**Comment by loefflerd** [comment]
> Oof, this is painful to read, and painful to compile as well. I can see you have tried very hard to make it as readable as possible, but I will have to think about whether there might be another approach.

I think I have a slightly different proof of `analyticAt_relation_zero_aux` which is a little bit less painful – overall it's not actually shorter, but it's more conceptual and hopefully more readable / maintainable.

The idea is the following:

- Show that each of `℘[L - 0]` and `℘'[L - 0]` can be written locally around 0 as "`(explicit polynomial) + z ^ 6 * (analytic function)`". This is is done using a general lemma (basically Taylor's theorem for analytic functions):
```lean
lemma AnalyticAt.exists_eq_sum_range_mul_add {f : ℂ → ℂ} (hf : AnalyticAt ℂ f 0) (n : ℕ) :
    ∃ F : ℂ → ℂ, AnalyticAt ℂ F 0 ∧ ∀ᶠ z in 𝓝 0,
      f z = (∑ i ∈ .range n, iteratedDeriv i f 0 * z ^ i / (i !)) + z ^ n * F z := by
```
- Substitute those local expansions into `analyticAt_relation_zero_aux` to deduce the function concerned has the form `z ^ 7 * (obviously analytic thing)`.

How should we proceed with this now? I'm not sure what the right workflow is for multi-author PR's now that every contributor has their own private fork. Maybe I can push a branch to my fork with the changes I suggest, and you can decide whether you want to merge that into your PR branch, or something?

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean (hunk 34 above)
Comment (erdOne) [reply Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: I need analytic + vanishes so I think I need positive.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean (hunk 26 above)
Comment (erdOne) [reply Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: I think we should just tag `Nat.factorial_ne_zero` as simp. I've done it locally for now and I will turn it on globally in a separate PR.

**Comment by loefflerd** [comment]
I guess what I'm proposing is kind of a "middle way": my main point is that using `AnalyticAt` rather than `HasFPowerSeries[At/OnBall]` means you're not trying to keep track of the power-series coefficients after the n-th. 

I'll make a "secondary PR" with my approach (but I'll wait a moment since it looks like you have a minor build glitch to sort out).

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean (hunk 26 above)
Comment (loefflerd) [reply Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: Is that enough to make it available to `field_simp`, though? I don't think all `simp` lemmas are automatically tried by `field_simp`'s non-zero-ness discharger.

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean:1479]: It is already derived from `ContDiffWithinAt.fderivWithin_right` which is (I think) the higher-dimensional analogue, and the versions with `ContDiffOn` already exists. I added `ContDiffAt.deriv`. 

I need this because `iteratedDerivWithin_smul` should only require `ContDiffWithinAt`.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean (hunk 10 above)
Comment (erdOne) [reply Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: I changed the name to `Filter.EventuallyEq.iteratedDerivWithin_eq_of_nhds_insert`. I can't tell if one could (or should) avoid this lemma or not.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean (hunk 26 above)
Comment (erdOne) [reply Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: I'm not sure. At least `field` now solves the goal for me.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean (hunk 10 above)
Comment (erdOne) [reply Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: The reason why there are no analogs for `deriv` and `fderiv` is because you need to check equality near `𝓝 x` which of course implies equal at `x`. But equal near `𝓝[s] x` doesn't necessarily imply equal at `x` so you either provide it explicitly or add `x` into `s`.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean (hunk 13 above)
Comment (erdOne) [reply Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean:281]: Should we tag everything with it? I think it is enough to have one TODO (saying "Same for the various lemmas below.")? I can still add them if you prefer.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean (hunk 10 above)
Comment (loefflerd) [reply Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: Of course, sorry, I was being dense.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean (hunk 13 above)
Comment (loefflerd) [reply Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean:281]: I guess one is enough. Not a big deal anyway.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 37]
```diff
@@ -131,6 +133,10 @@ lemma isClosed_of_subset_lattice {s : Set ℂ} (hs : s ⊆ L.lattice) : IsClosed
 lemma isOpen_compl_lattice_diff {s : Set ℂ} : IsOpen (L.lattice \ s)ᶜ :=
   (L.isClosed_of_subset_lattice Set.diff_subset).isOpen_compl
 
+open scoped Topology in
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean:137]: I suggest `open Module Topology Filter` globally at the top of the file, it shouldn't conflict with anything. If you `open scoped Nat` as well then you get the `n !` notation for factorials.

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 38]
```diff
@@ -734,9 +750,35 @@ lemma hasFPowerSeriesOnBall_weierstrassPExcept (l₀ x : ℂ) (r : NNReal) (hr0
...
   (L.differentiableOn_weierstrassPExcept l₀).analyticOnNhd L.isOpen_compl_lattice_diff
 
+@[fun_prop]
+lemma analyticAt_weierstrassPExcept (l₀ : ℂ) : AnalyticAt ℂ ℘[L - l₀] l₀ :=
+  L.analyticOnNhd_weierstrassPExcept _ _ (by simp)
+
+attribute [local simp] Nat.factorial_ne_zero in
+lemma iteratedDeriv_weierstrassPExcept (l : ℂ) {n : ℕ} :
+    iteratedDeriv n ℘[L - l] l =
+      if n = 0 then ℘[L - l] l else (n + 1).factorial * L.sumInvPow l (n + 2) := by
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
      if n = 0 then ℘[L - l] l else (n + 1)! * L.sumInvPow l (n + 2) := by
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 39]
```diff
@@ -734,9 +750,35 @@ lemma hasFPowerSeriesOnBall_weierstrassPExcept (l₀ x : ℂ) (r : NNReal) (hr0
...
+  rw [← div_mul_cancel₀ (a := iteratedDeriv _ _ _) (b := ↑n.factorial)
+    (by simp [n.factorial_pos.ne']), ← eq_div_iff_mul_eq (by simp)]
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
  rw [← div_mul_cancel₀ (a := iteratedDeriv _ _ _) (b := ↑n !) (by simp), 
    ← eq_div_iff_mul_eq (by simp)]
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 40]
```diff
@@ -734,9 +750,35 @@ lemma hasFPowerSeriesOnBall_weierstrassPExcept (l₀ x : ℂ) (r : NNReal) (hr0
...
+  trans if n = 0 then ℘[L - l] l else (n + 1) * L.sumInvPow l (n + 2)
+  · simpa using congr($((L.analyticAt_weierstrassPExcept l).hasFPowerSeriesAt
+      |>.eq_formalMultilinearSeries (L.hasFPowerSeriesAt_weierstrassPExcept l)).coeff n)
+  · obtain (_ | n) := n
+    · simp
+    · simp [Nat.factorial_succ (n + 1)]; field
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: :golf:
```suggestion
  · obtain (_ | n) := n <;> simp [Nat.factorial_succ]
    field
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 41]
```diff
@@ -756,20 +798,43 @@ lemma hasFPowerSeriesOnBall_derivWeierstrassPExcept (l₀ x : ℂ) (r : NNReal)
...
   · simpa using Metric.ball_subset_closedBall
 
+lemma hasFPowerSeriesAt_derivWeierstrassPExcept (l : ℂ) :
+    HasFPowerSeriesAt ℘'[L - l]
+      (.ofScalars ℂ fun i ↦ (i + 1) * (i + 2) * L.sumInvPow l (i + 3)) l := by
+  obtain ⟨r, h₁, h₂⟩ := Metric.nhds_basis_closedBall.mem_iff.mp
+    (L.compl_lattice_diff_singleton_mem_nhds l)
+  lift r to NNReal using h₁.le
+  simpa [derivWeierstrassPExceptSeries] using
+    (L.hasFPowerSeriesOnBall_derivWeierstrassPExcept l l r h₁ h₂).hasFPowerSeriesAt
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
  simpa [derivWeierstrassPExceptSeries] using
    (L.hasFPowerSeriesOnBall_derivWeierstrassPExcept l l ⟨r, h₁.le⟩ h₁ h₂).hasFPowerSeriesAt
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 42]
```diff
@@ -756,20 +798,43 @@ lemma hasFPowerSeriesOnBall_derivWeierstrassPExcept (l₀ x : ℂ) (r : NNReal)
...
+  L.analyticOnNhd_derivWeierstrassPExcept l₀ _ (by simp)
+
+lemma iteratedDeriv_derivWeierstrassPExcept (l : ℂ) {n : ℕ} :
+    iteratedDeriv n ℘'[L - l] l = (n + 2).factorial * L.sumInvPow l (n + 3) := by
+  have : iteratedDeriv n ℘'[L - l] l / n.factorial =
+      (↑n + 1) * (↑n + 2) * L.sumInvPow l (n + 3) := by
+    simpa using congr($((L.analyticAt_derivWeierstrassPExcept l).hasFPowerSeriesAt
+      |>.eq_formalMultilinearSeries (L.hasFPowerSeriesAt_derivWeierstrassPExcept l)).coeff n)
+  simp [div_eq_iff, Nat.factorial_ne_zero, Nat.factorial_succ] at this ⊢
+  linear_combination this
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
  grind
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 43]
```diff
@@ -858,4 +929,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+  filter_upwards [self_mem_nhdsWithin, mem_nhdsWithin_of_mem_nhds
+    (L.compl_lattice_diff_singleton_mem_nhds _)] with w hw hw'
+  rw [relation, if_neg (by simp_all)]
+
+private lemma relation_mul_id_pow_six_eventuallyEq :
+    (L.relation * id ^ 6) =ᶠ[nhds 0]
+    (fun z ↦ (℘'[L - (0 : ℂ)] z * z ^ 3 - 2) ^ 2 - 4 *
+      (℘[L - (0 : ℂ)] z * z ^ 2 + 1) ^ 3 + L.g₂ *
+      (℘[L - (0 : ℂ)] z * z ^ 6 + z ^ 4) + L.g₃ * z ^ 6) := by
+  refine Filter.eventuallyEq_of_mem (L.compl_lattice_diff_singleton_mem_nhds _) fun z hz ↦ ?_
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
  filter_upwards [L.compl_lattice_diff_singleton_mem_nhds _] with z hz
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 44]
```diff
@@ -858,4 +929,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+  by_cases hz0 : z = 0
+  · simp [hz0, relation]; norm_num
+  replace hz : z ∉ L.lattice := by simp_all
+  simp only [Pi.mul_apply, Pi.pow_apply, relation, ↓reduceIte, hz,
+    ← ZeroMemClass.coe_zero L.lattice, L.derivWeierstrassPExcept_def, L.weierstrassPExcept_def]
+  simp
+  field [show z ≠ 0 by aesop]
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
  field
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 45]
```diff
@@ -858,4 +929,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+    iteratedDeriv_fun_mul, iteratedDeriv_const, iteratedDeriv_fun_pow_zero,
+    iteratedDeriv_derivWeierstrassPExcept, iteratedDeriv_weierstrassPExcept]
+  simp [Finset.sum_range_succ, L.G_eq_zero_of_odd 3 (by decide), g₃,
+    show Nat.choose 6 4 = 15 by rfl, show Nat.choose 6 3 = 20 by rfl]
+  ring
+
+attribute [local fun_prop] AnalyticAt.contDiffAt in
+private lemma analyticAt_relation_zero : AnalyticAt ℂ L.relation 0 := by
+  refine .of_meromorphicOrderAt_pos ?_ (by simp [relation])
+  suffices 1 ≤ meromorphicOrderAt L.relation 0 from lt_of_lt_of_le (b := 0 + 1) (by simp) this
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
  suffices 1 ≤ meromorphicOrderAt L.relation 0 from one_pos.trans_le this
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 46]
```diff
@@ -858,4 +929,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+    simpa [-LinearOrderedAddCommGroupWithTop.add_le_add_iff_left_of_ne_top] using this
+  rw [AnalyticAt.meromorphicOrderAt_eq (by fun_prop)]
+  refine ENat.monotone_map_iff.mpr Nat.mono_cast
+    ((natCast_le_analyticOrderAt_iff_iteratedDeriv_eq_zero (by fun_prop)).mpr ?_)
+  intro i hi₁
+  by_cases hi₂ : Odd i
+  · rw [← CharZero.eq_neg_self_iff]
+    have := iteratedDeriv_comp_neg i (L.relation * id ^ 6) 0
+    simpa [show ∀ x : ℂ, (-x) ^ 6 = x ^ 6 by intro; ring, hi₂] using
+      (iteratedDeriv_comp_neg i (L.relation * id ^ 6) 0:)
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
  · have := iteratedDeriv_comp_neg i (L.relation * id ^ 6) 0
    simpa [← CharZero.eq_neg_self_iff, hi₂, (show Even 6 by decide).neg_pow]
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 47]
```diff
@@ -858,4 +929,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+  suffices 1 ≤ meromorphicOrderAt L.relation 0 from lt_of_lt_of_le (b := 0 + 1) (by simp) this
+  suffices 7 ≤ meromorphicOrderAt (L.relation * id ^ 6) 0 by
+    rw [meromorphicOrderAt_mul (by fun_prop) (by fun_prop),
+      meromorphicOrderAt_pow (by fun_prop)] at this
+    rw [← WithTop.add_le_add_iff_right (z := 6) (by simp)]
+    simpa [-LinearOrderedAddCommGroupWithTop.add_le_add_iff_left_of_ne_top] using this
+  rw [AnalyticAt.meromorphicOrderAt_eq (by fun_prop)]
+  refine ENat.monotone_map_iff.mpr Nat.mono_cast
+    ((natCast_le_analyticOrderAt_iff_iteratedDeriv_eq_zero (by fun_prop)).mpr ?_)
+  intro i hi₁
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: (could optionally inline this into prev line)

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 48]
```diff
@@ -858,4 +929,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+    iteratedDeriv_fun_mul, iteratedDeriv_const, iteratedDeriv_fun_pow_zero,
+    iteratedDeriv_derivWeierstrassPExcept, iteratedDeriv_weierstrassPExcept]
+  interval_cases i
+  · cases hi₃ rfl
+  · cases hi₂ (by decide)
+  · simp [Finset.sum_range_succ]
+  · cases hi₂ (by decide)
+  · simp [Finset.sum_range_succ, show Nat.choose 4 2 = 6 by rfl, g₂]; ring
+  · cases hi₂ (by decide)
+  · cases hi₄ rfl
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]: Rather than re-doing a bunch of cases that are already done, how about
```suggestion
  rcases (show i = 2 ∨ i = 4 by grind) with rfl | rfl
  · simp [Finset.sum_range_succ]
  · simp [Finset.sum_range_succ, show Nat.choose 4 2 = 6 by rfl, g₂]; ring
```

File: Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean [hunk 49]
```diff
@@ -858,4 +929,155 @@ lemma order_weierstrassP (l₀ : ℂ) (h : l₀ ∈ L.lattice) :
...
+    convert this.comp (f := (· - x.1)) (by fun_prop)
+    ext a
+    simp
+  · have : AnalyticAt ℂ (fun z ↦ ℘'[L] z ^ 2 - 4 * ℘[L] z ^ 3 + L.g₂ * ℘[L] z + L.g₃) x := by
+      have := L.analyticOnNhd_derivWeierstrassP _ hx
+      have := L.analyticOnNhd_weierstrassP _ hx
+      fun_prop (disch := assumption)
+    refine this.congr (Filter.eventuallyEq_of_mem
+      (L.isClosed_lattice.isOpen_compl.mem_nhds (by simpa)) ?_)
+    intro x hx
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/Elliptic/Weierstrass.lean]:
```suggestion
    apply this.congr
    filter_upwards [L.isClosed_lattice.isOpen_compl.mem_nhds hx)]
```

**Review by loefflerd — COMMENTED** [review]
I spent a fair amount of effort trying to make my alternative approach – of calculating Taylor-polynomial approximations to ℘ and ℘' and doing polynomial arithmetic with them – but I really couldn't make it work nicely. So I am happy to concede that your approach is the one to use. I have left a few minor suggestions, nothing controversial. 

Thanks for all your great work on this PR!

maintainer delegate

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 50]
```diff
@@ -132,13 +142,78 @@ theorem iteratedDerivWithin_comp_const_smul (hf : ContDiffOn 𝕜 n f s) (c : 
...
+        show k < i → i - k = (i - (k + 1) + 1) by lia]; ring
+
 end
 
 lemma iteratedDeriv_add (hf : ContDiffAt 𝕜 n f x) (hg : ContDiffAt 𝕜 n g x) :
     iteratedDeriv n (f + g) x = iteratedDeriv n f x + iteratedDeriv n g x := by
   simpa only [iteratedDerivWithin_univ] using
     iteratedDerivWithin_add (Set.mem_univ _) uniqueDiffOn_univ hf hg
 
+-- TODO: `@[to_fun]` generates the wrong name. Same for the various lemmas below.
```
Comment (jcommelin) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean:212]: @JovanGerb Just pinging you here. But I will not block this PR on this.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by loefflerd** [comment]
bors r-

Looks like there is some minor conflict:
```
Warning: warning: Mathlib/Analysis/Analytic/Order.lean:335:18: This simp argument is unused:
    ENat.add_le_add_iff_right
  
  Hint: Omit it from the simp argument list.
    simp [← this, E̵N̵a̵t̵.̵a̵d̵d̵_̵l̵e̵_̵a̵d̵d̵_̵i̵f̵f̵_̵r̵i̵g̵h̵t̵,̵ ̵IH hf.deriv, iteratedDeriv_succ', -Order.lt_add_one_iff, Nat.forall_lt_succ_left,
    ̲  ̲ ̲ ̲ ̲ ̲hfz]
```
@jcommelin could you please delegate Andrew so he can fix this?
